US08835472B2
3-(1-(4-((4-Ethoxyphenyl)ethynyl)phenyl)ethyl)-1,1-dimethylurea
To 26.5 mg (0.10 mmol) 1-(4-((4-ethoxyphenyl)ethynyl)phenyl)ethanamine (I63) and 27.7 μL (0.20 mmol) TEA in 1.5 mL DCM are added 11.0 μl (0.12 mmol) dimethylcarbamyl chloride at 0° C. The reaction mixture is stirred at r.t. over night and directly purified by HPLC (MeOH/H2O/NH3).

reactant | 1-(4-((4-ethoxyphenyl)ethynyl)phenyl)ethanamine | 0.10 mmol, 26.5 mg | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(C)N | C18H19NO
reactant | dimethylcarbamyl chloride | 0.12 mmol, 11.0 μl | CN(C(=O)Cl)C | C3H6ClNO
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 3-(1-(4-((4-Ethoxyphenyl)ethynyl)phenyl)ethyl)-1,1-dimethylurea | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(C)NC(N(C)C)=O | C21H24N2O2
